US07034039B2
(E)-3-[3-[[(Tert-butoxycarbonyl)amino]methyl-]-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide (0.15 g, 0.3 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml) and the mixture was stirred at room temperature, for 1 h. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate-diisopropyl ether to give (E)-3-[3-(aminomethyl)-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide hydrochloride (0.12 g, 92.3%) as crystals.

reactant | (E)-3-[3-[[(Tert-butoxycarbonyl)amino]methyl-]-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide | 0.3 mmol, 0.15 g | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)C)/C=C/C(=O)N)=O)CC(C)C | C29H35N3O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | (E)-3-[3-(aminomethyl)-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide hydrochloride | 0.12 g, 92.3% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)C)/C=C/C(=O)N)=O)CC(C)C | InChI=1S/C24H27N3O2.ClH/c1-15(2)14-27-21(13-25)23(18-8-4-16(3)5-9-18)20-12-17(7-11-22(26)28)6-10-19(20)24(27)29;/h4-12,15H,13-14,25H2,1-3H3,(H2,26,28);1H/b11-7+;
